Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Terbutaline / Epinephrine / Glucocorticoids / 
Alupent / Iodine / Prednisone
 
Attending: ___.
 
Chief Complaint:
shortness of breath, chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with h/o severe COPD (with multiple intubations), 
diastolic CHF (EF 60% from ___, CAD with reported prior MI, 
and h/o of refusing medications and leaving AMA, who presented 
by EMS from home for CP/SOB/leg pain. Patient last left AMA from 
___ in ___ 3 days prior to this admission. 
___ notes being treated with levofloxacin for a PNA there, but 
has been off antibiotics as ___ left AMA. His complaints include 
shortness of breath and wheezing, substernal chest pain 
different than the pain from his prior MI. ___ notes fever taken 
at home at 99.4-100.7 and a dry cough. ___ denies increased ___ 
edema, but has orthopnea. His lower leg pain is attributed to 
his multiple sclerosis and ___ notes both pain and weakness. ___ 
is asking for IV morphine and oxycontin for his leg pain.
.
___ has been hospitalized at multiple hospitals over the years, 
including ___ in ___, and a 
___ physician who knows him well there is Dr. 
___ refuses consent for gathering medical records 
from ___ but we were able to obtain a discharge 
summary from ___ at ___ when ___ was 
admitted with a COPD exacerbation.
.  
In ED, T 99.4, HR 101, BP 114/69, SpO2 93% on RA. ___ received 
levofloxacin 750 mg, albuterol, ipratropium, and morphine 4 mg 
IV x 2. CXR and blood cultures were performed.  
.  
This AM, patient is still having difficulty breathing with 
wheezing, poor air movement, but his O2 sat taken at 90% on RA. 
___ is complaining of 20 out of 10 leg pain requiring pain 
medications.
 
Past Medical History:
COPD with multiple intubations - h/o refusal to use steroids or 
BIPAP. Not on home O2 due to insurance issues. 
Diastolic CHF, followed at ___ Cardiology in ___ 

CAD s/p "multiple" MI's  
Multiple sclerosis per patient - stated was diagnosed ___ years 
ago followed by Dr. ___ ___. However, when 
called this Dr. ___ was no record of patient. 
Diverticulosis  
Diabetes Mellitus
GERD
 
Social History:
___
Family History:
Father had emphysema, died of an MI at age ___. Mother died of an 
MI at age ___. Otherwise non-contributory.  
 
Physical Exam:
VS on admission: T 98.3, BP 106/65, HR 87, RR 20, SpO2 95% on 5L
current VS: T 98.6, BP 116/71 (lowest was 93/67), P80, RR20, 90% 
on RA  
Gen: obese, disheveled man speaking full sentences but slightly 
labored breathing 
CV: RR, S1, S2 no m/r/g - difficult to appreciate due to breath 
sounds
Neck: left EJ in place, no JVD  
Resp: expiratory wheezes with prolonged expiratory phase in all 
lung fields, moderate air movement, no crackles  
Abdomen: soft, obese, nontender, nondistended  
Extrem: nonpitting edema
Neuro: difficult neuro exam due to noncompliance. ___ items of 5 
minute recall, repetition intact, serial 7's through 14, 
CNII-XII intact. No nystagmus, no visual field defects, normal 
sensation to light touch without deficits on upper or lower 
extremities, ___ reflexes, equivocal toes. Motor exam difficult 
due to noncompliance.
 
Pertinent Results:
EKG: NSR, Rate 100, normal axis and intervals, no ST-Twave 
changes.  
.  
IMAGING:  
CXR ___: There is a mild central vascular congestion 
particularly evident in the left suprahilar region. However, no 
frank interstitial edema is identified. No consolidation noted. 
The mediastinum is grossly stable. No effusion or pneumothorax 
is noted.  
IMPRESSION: Grossly unremarkable examination with residual right 
basilar atelectasis and mild central vascular congestion.  
.  
LAST ECHO: ___
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF 60%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened. There is mild mitral valve prolapse. There is no 
pericardial effusion. 
.

 
Brief Hospital Course:
A/P: ___ yo male with h/o severe COPD (with multiple 
intubations), diastolic CHF (EF 60% from ___, CAD with 
reported prior MI, and h/o of refusing medications and leaving 
AMA, who presented with shortness of breath and chest pain and 
left on ___ against medication advice.
.  
# Leaving AMA: Patient had history of leaving AMA from multiple 
other hospitals. Left another hospital AMA 3 days prior to this 
admission and refused to let us obtain records from that ___ 
hospital. Patient was refusing recommendations on care and left 
AMA on ___ when asked needing documentation of home address. 
Despite his complaints of leg weakness and pain requiring 
narcotics, and breathing problems, patient was able to walk out 
of hospital ward breathing comfortably on room air. ___ refused 
to sign AMA form.
.
#. Shortness of breath: Most consistent with COPD exacerbation 
with wheezes on exam, no evidence of over fluid overload and BNP 
of 62 to indication acute exacerbation of CHF. Patient has had 
multiple intubations/hospitalizations for this at home and has 
unclear compliance to home regimen. Patient also notes being on 
levofloxacin from OSH for PNA but no fever, cough, or infiltrate 
to suggest PNA at this point. Patient was Q4H nebs as patient 
refused Q2H standing albuterol nebulizers and standing Q6H 
ipratroprium nebulizers. ___ was continued on levofloxacin x 5 
days. ___ also refused fluticasone inhaled steroids, singulaire.
.  
#) Cardiac:  
(a) CAD: Patient reports multiple prior MI's now presents with 
complaint of chest pain but admission EKG with no ST changes. 
ROMId with 3 sets of negative enzymes. ___ was continued on ASA 
and ACEi. 
.
(b) Pump: Patient reports CHF, supported by e/o vascular 
congestion on CXR, but BNP 62 with strong negative predictive 
value. TTE from ___ shows normal systolic function (EF 60%), LV 
size and wall thickness. Patient looks euvolemic with no 
evidence of acute overload currently. ___ was continued on lasix 
40mg PO daily
.
(c) Rhythm: NSR  
.  
# DM: Per discharge summary from OSH, patient is diet-controlled 
with fair control
Plan for diabetic diet, but patient refuses this. Maintained on 
insulin sliding scale.
.
# Stated history of multiple sclerosis (MS): Patient with stated 
history of MS, but stated neurologist does not know the patient 
and has no records on him. Patient is not compliant with good 
neurologic exam - patient has no symptoms of optic neuritis on 
exam, not able to assess lower extremity function well. Patient 
was seen by neurology this admission and patient had an 
inconsistent neuro exam but no indications of multiple 
sclerosis.
.
#) Pain control: Patient has been demanding of IV morphine on 
arrival to floor for "20 out of 10" pain in his legs due to his 
MS. ___ refused Oxycodone 10 mg PO and became irate and abusive 
towards staff, demanding transfer to another hospital. As we are 
concerned about having the patient leave AMA with his current 
respiratory state, we have an agreement with patient to have him 
on the following regimen:
morphine 1mg IV Q6hr prn pain. No extra doses, continued on 
Oxycontin 20 mg BID
.
PCP: ___, MD
___

 
Medications on Admission:
HOME MEDICATIONS PER PATIENT: (10 total, only able to recall 8)  

Klonopin 2 mg TID  
Lasix 40 mg daily  
Diltiazem 120 mg daily  
ASA  
Lisinopril 10 mg daily  
Albuterol inhaler PRN  
Protonix 40 mg daily  
Oxycontin 20 mg BID  
A tranquilizer that starts with "S"  
.
DISCHARGE MEDICATIONS ___ ___
Combivent 2 puffs QID
Aspirin 325mg daily
Lasix 40mg PO BID
Lisinopril 5mg PO daily
Singulair 10mg PO daily
Percocet ___ tabs Q4-6hrs prn
Robitussin cough syrup prn
 
Discharge Medications:
1. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) 
injection Injection TID (3 times a day).  
2. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Clonazepam 1 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Ipratropium Bromide 0.02 % Solution Sig: One (1) neubulizer 
Inhalation Q6H (every 6 hours).  
6. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: Two (2) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).  
7. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day): Patient refusing.  
8. Insulin Lispro 100 unit/mL Solution Sig: Administer as 
directed by insulin sliding scale subcutaneous Subcutaneous 
ASDIR (AS DIRECTED).  
9. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
12. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1) inhalation Inhalation Q4H (every 4 hours) as needed for 
shortness of breath.  
13. Levofloxacin 25 mg/mL Solution Sig: Seven Hundred Fifty 
(750) mg Intravenous once a day: 5 days in duration total. Last 
day will be ___.  
14. Morphine Sulfate 1 mg IV Q6H:PRN pain 
Hold for sedation, RR<10 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Final diagnosis
Leaving against medical advice
Acute on chronic obstructive pulmonary disease

Secondary diagnosis
Stable chronic diastolic congestive heart failure
Diabetes mellitus
Gastroesophageal reflux
Coronary artery disease

 
Discharge Condition:
Patient left AMA. ___ left hospital by foot, walking steadily on 
feet, breathing heavily but without oxygen.

 
Discharge Instructions:
You were admitted for shortness of breath and chest pain. You 
were found to have an exacerbation of your chronic obstructive 
pulmonary disease and were given nebulizer treatments, 
antibiotics, and maintained on oxygen. 
.
On ___, you walked out of the hospital against medical 
advice.
 
Followup Instructions:
___